US07427631B2
(5S)-5-({[4-(4-fluorophenyl)piperidin-1-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione
4-(4-Fluorophenyl)piperidine hydrochloride (63 mg, 0.29 mmol) was taken up in 3 mL of dry THF, neutralized with diisopropylethylamine (50 μL, 0.29 mmol) and cooled on an ice-water bath. [(4S)-4-metyl-2,5-dioxo-imidazolodin-4-yl]methanesulfonyl chloride (80 mg, 0.35 mmol) was added and after stirring for 10 min, diisopropylethylamine (50 μL, 0.29 mmol) was added and the reaction mixture was stirred at ambient temperature until LC-MS (APCD) indicated consumption of the amine. The reaction mixture was evaporated and the residue taken up in EtOH and heated to 50° C. and allowed to cool before water was added. The precipitated product was collected and washed with EtOH/water and dried in vacuum to yield 87 mg.

reactant | 4-(4-Fluorophenyl)piperidine hydrochloride | 0.29 mmol, 63 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | diisopropylethylamine | 0.29 mmol, 50 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [(4S)-4-metyl-2,5-dioxo-imidazolodin-4-yl]methanesulfonyl chloride | 0.35 mmol, 80 mg | C[C@@]1(NC(NC1=O)=O)CS(=O)(=O)Cl | C5H7ClN2O4S
reactant | diisopropylethylamine | 0.29 mmol, 50 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (5S)-5-({[4-(4-fluorophenyl)piperidin-1-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione | FC1=CC=C(C=C1)C1CCN(CC1)S(=O)(=O)C[C@@]1(C(NC(N1)=O)=O)C | C16H20FN3O4S
